US05246914
6-Imidazolyl-2-(3,5-dimethoxy-s-triazin-1-yloxy)-1-[(1-pyrazolyl)-oxycarbonyl]-benzene
1.75 g (10.8 mmol) of N,N'-carbonylbisimidazole is added to a solution of 1.88 g (10 mmol) of 6-imidazolylsalicylic acid in 30 ml of tetrahydrofuran. After the mixture has been stirred for 30 minutes at room temperature, 9.9 mmol of N-hydroxypyrazole is added and the mixture is stirred for a further 14 hours. The reaction mixture is then hydrolyzed with 300 ml of 1N phosphoric acid and the resulting mixture is extracted several times with methyl tert-butyl ether. The organic phases are dried over sodium sulfate and evaporated down under reduced pressure. The residue is taken up in 40 ml of dimethylformamide, and 280 mg of sodium hydride (85% strength in paraffin, 10 mmol) is added. After the mixture has been stirred for 30 minutes at room temperature, 1.58 g (9 mmol) of 1-chloro-3,5-dimethoxy-s-triazine is added and the whole is stirred for 14 hours. The batch is introduced into 300 ml of 0.1N phosphoric acid, and extracted with diethyl ether. The ether phase is dried over sodium sulfate and evaporated down, and the residue is purified by column chromatography.

reactant | 6-imidazolylsalicylic acid | 10 mmol, 1.88 g | N1C(=NC=C1)C=1C=CC=C(C1C(=O)O)O | C10H8N2O3
reactant | N-hydroxypyrazole | 9.9 mmol | ON1N=CC=C1 | C3H4N2O
reactant | sodium hydride | 10 mmol, 280 mg | [H-].[Na+]
reactant | 1-chloro-3,5-dimethoxy-s-triazine | 9 mmol, 1.58 g | ClN1CN(CN(C1)OC)OC | C5H12ClN3O2
reactant | phosphoric acid | 0.1N, 300 ml | P(O)(O)(O)=O | H3O4P
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-Imidazolyl-2-(3,5-dimethoxy-s-triazin-1-yloxy)-1-[(1-pyrazolyl)-oxycarbonyl]-benzene | N1C(=NC=C1)C1=CC=CC(=C1C(=O)ON1N=CC=C1)ON1CN(CN(C1)OC)OC | C18H21N7O5
